US07834051B2
rac-2-chloro-4-[(6R,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]benzonitrile
To a solution of rac-4-((6R,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl)-2-chlorobenzonitrile (140 mg) in THF (5 mL) was added tetrabutylammonium fluoride-THF solution (2.00 mL, 1 mol/L), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/0→3/1) to give the title compound as a colorless solid (yield: 32.3 mg, 32.5%).

reactant | rac-4-((6R,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl)-2-chlorobenzonitrile | 140 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H](N(C(C12CC2)=O)C2=CC(=C(C#N)C=C2)Cl)C | C20H27ClN2O2Si
reactant | tetrabutylammonium fluoride THF | 1 mol/L, 2.00 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | rac-2-chloro-4-[(6R,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]benzonitrile | yield: 32.3 mg, 32.5% | ClC1=C(C#N)C=CC(=C1)N1C(C2(CC2)[C@H]([C@H]1C)O)=O | C14H13ClN2O2
